US06258813B1
Starting from 1.10 g of 3-chloromethyl-5-(4-fluorophenyl)pyridine (“B”) [obtainable, for example, by radical chlorination of 3-methyl-5-(4-fluorophenyl)-pyridine], reaction with 0.82 g of 1-(2-pyrimidinyl)piperazine in 200 ml of acetonitrile at room temperature analogously to Example 1 gives 1-(2-pyrimidinyl)-4-[(5-(4-fluorophenyl)-3-pyridyl)methyl]piperazine, m.p. 97-98°, after customary work-up.

reactant | 3-chloromethyl-5-(4-fluorophenyl)pyridine | 1.10 g | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)F | C12H9ClFN
reactant | 1-(2-pyrimidinyl)piperazine | 0.82 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-(2-pyrimidinyl)-4-[(5-(4-fluorophenyl)-3-pyridyl)methyl]piperazine | N1=C(N=CC=C1)N1CCN(CC1)CC=1C=NC=C(C1)C1=CC=C(C=C1)F | C20H20FN5
